US04307024
1,1-Bis-(4-methoxyphenyl)-1-phenyl-2,2,2-trifluoroethane.
A mixture of 10.0 g. (0.057 mol) of trifluoroacetophenone, 10 g (0.07 mol) trifluoromethyl sulfonic acid, and 10 g (1.09 mol) anisole was stirred at room temperature for 24 hours. There was a slight initial exothermic reaction which subsided within 10 minutes. At the end of 24 hours, the mixture was transferred to a separatory funnel and the organic material was washed with water (3×100 ml), saturated sodium bicorbonate (3×50 ml), and water (2×50 ml). The organic phase was dried (magnesium sulfate) and the excess volatile reagents were removed in vacuo. The resulting non-volatile material was crystallized from aqueous methanol to give 19.9 g (94% yield) of the desired product: m.p. 120°-121° C.; IR (KBr) 1604 and 1510 (Ar); 1145 (C-F), 810 (parasubstituted phenyl), 740 and 690 cm-1 (monosubstituted phenyl); NMR δ3.93 (s, 6H), 6.8s (d, J=4 Hz, 4H), 7.10 (d, J=4 Hz, 4H), 7.28 (s, broad, 5H); mass spectrum m/e, 372 (parent ion), 303 (P-69 base peak), 288 (P-84), 273 (P-99), 226 (P-146), 195 (P-177), 180 (P-192), 165 (P-207), 107 (P-265) 88 (P-284), 77 (P-295). Analytical: calculated for C22H19O2F3 ; C., 70.97; H, 5.12; F, 15.32%. Found: C, 71.13; H, 5.16; F, 15.1%.

reactant | trifluoroacetophenone | 0.057 mol | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | trifluoromethyl sulfonic acid | 0.07 mol, 10 g | FC(F)(F)S(=O)(=O)O | CHF3O3S
reactant | anisole | 1.09 mol, 10 g | C1(=CC=CC=C1)OC | C7H8O
product | 1,1-Bis-(4-methoxyphenyl)-1-phenyl-2,2,2-trifluoroethane | 19.9 g, 94% yield | COC1=CC=C(C=C1)C(C(F)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C22H19F3O2
